US06300500B1
Preparation of 1-butyl-3-carbamoyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine:
A mixture of 1-butyl-3-ethoxycarbonyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine (45.0 g, 120 mmol), formamide (15.5 ml, 390 mmol) and dimethylformamide (120 ml) was dissolved at 60° C., and thereto was added a 25% solution of sodium methoxide in methanol (108 ml, 390 mmol), and the mixture was stirred at 60° C. for 9 hours. The mixture was cooled to 0° C., and thereto was added water (1.2 liter), and the mixture was stirred for 15 minutes. The precipitated solid was collected by filtration, washed with ethanol, and dried to give the title compound (37.8 g, yield; 87%) as white powder.

reactant | 1-butyl-3-ethoxycarbonyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine | 120 mmol, 45.0 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)C(=O)OCC)=O | C22H24N2O4
reactant | formamide | 390 mmol, 15.5 ml | C(=O)N | CH3NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 390 mmol, 108 ml | CO | CH4O
solvent | water | 1.2 liter | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 1-butyl-3-carbamoyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine | 37.8 g, yield; 87% | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)C(N)=O)=O | C20H21N3O3
